US07429665B2
4-(2-Quinolin-2-yl-ethyl)-benzoic acid
To a solution of 4-(2-Quinolin-2-yl-ethyl)-benzoic acid methyl ester (680 mg) in THF (11 ml)/methanol (3 ml) was added 1N sodium hydroxide solution (4.67 ml). The reaction mixture stirred for 4 h. and the pH adjusted to 3. The white solid was filtered to provide the title compound (550 mg, 86%). MS: (M+H m/z=278.1).

reactant | 4-(2-Quinolin-2-yl-ethyl)-benzoic acid methyl ester | 680 mg | COC(C1=CC=C(C=C1)CCC1=NC2=CC=CC=C2C=C1)=O | C19H17NO2
reactant | methanol | 3 ml | CO | CH4O
reactant | sodium hydroxide | 1N, 4.67 ml | [OH-].[Na+]
solvent | THF | 11 ml | C1CCOC1 | C4H8O
product | 4-(2-Quinolin-2-yl-ethyl)-benzoic acid | 550 mg, 86% | N1=C(C=CC2=CC=CC=C12)CCC1=CC=C(C(=O)O)C=C1 | C18H15NO2
